US09422262B2
2-bromo-N-(3-butyramidophenyl)benzamide
2-Bromobenzoic acid (259 mg, 1.29 mmol) was sealed in a flask with stir bar under nitrogen, then dissolved with dichloromethane (7.5 mL) and cooled on ice. Oxalyl chloride (113 μL, 1.29 mmol) and N,N-dimethylformamide (4 μL, 0.06 mmol) were added, then the reaction was removed from the ice bath and stirred for 3 h with a vent to an oil bubbler. N-(3-Aminophenyl)butyramide (200 mg, 1.12 mmol) was then added, followed by pyridine (209 μL, 2.58 mmol). After 18 h, LC-MS analysis showed complete consumption of the amine reactant. The reaction was diluted with ethyl acetate (40 mL) and 1 M aqueous HCl (40 mL), then the layers were separated and the organic phase was washed again with aqueous HCl, then twice with half-saturated aqueous NaHCO3, then brine. The organics were dried over Na2SO4, filtered, and concentrated to a colorless oil. The oil was redissolved with dichloromethane, then hexane was added to induce the precipitation of an amorphous solid. The suspension was concentrated and dried under hi-vacuum to yield the title compound (382 mg, 94%). LRMS (ESI+) (M+H): 361.12.

reactant | 2-Bromobenzoic acid | 1.29 mmol, 259 mg | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | Oxalyl chloride | 1.29 mmol, 113 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(3-Aminophenyl)butyramide | 1.12 mmol, 200 mg | NC=1C=C(C=CC1)NC(CCC)=O | C10H14N2O
reactant | pyridine | 2.58 mmol, 209 μL | N1=CC=CC=C1 | C5H5N
catalyst | N,N-dimethylformamide | 0.06 mmol, 4 μL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 7.5 mL | ClCCl | CH2Cl2
product | 2-bromo-N-(3-butyramidophenyl)benzamide | 382 mg, 94% | BrC1=C(C(=O)NC2=CC(=CC=C2)NC(CCC)=O)C=CC=C1 | C17H17BrN2O2
